data/rdb19/train.csv
rxn,smiles,ea
5157,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:36])[H:37])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])[H:18])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[H:19][C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([H:36])[H:37])([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40],23.655019881145563
5484,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:4])([H:5])[O:21][C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])[H:26])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12],30.06381040072301
4570,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:21]1([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:22]([H:36])[C:23]([H:37])=[C:24]([H:38])[C:25]([H:39])=[C:26]1[H:40])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],27.27485845371848
690,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[C:23](=[O:24])[O:25][H:31])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:30],74.56818794610444
3446,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:19]([O:18][C:17]([H:24])([H:25])[H:26])([O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31],44.48793564917287
2116,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:25])([H:6])[H:7],47.836984628404025
2932,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])([C:20]([H:21])[H:22])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])([H:12])[C:20]([C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:29])([H:30])[H:31])[H:28])([H:21])[H:22],65.87871458899463
638,[C:18]([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][C:18]([H:19])([H:20])[H:21],20.76745215494884
2045,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([C:13](=[C:14]([H:24])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2]([O:3][H:25])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],32.99109769903589
1425,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:22])[H:6],35.96875767788151
